data/pmechdb/original/mc_train_fold0/raw/train.txt
C[OH+:21][CH2:20][O:10]C.C1=CC=C(C=C1)CCN.C1=CC(=CC=C1CC(C(=O)O)N)O.O.[Cl-]>>C[OH:21].C[O+:10]=[CH2:20].C1=CC=C(C=C1)CCN.C1=CC(=CC=C1CC(C(=O)O)N)O.O.[Cl-] 10=20;20,21=21
[H:20][O+:21]=C1CC2CC(CC2C1)OC.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.CC(C)(CO)CO>>[H:20][OH2+:10].COC1CC2CC(=[O:21])CC2C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.CC(C)(CO)CO 10=20;20,21=21
CC12CC[C:11](=[CH:10][C:20]1(CCC2=O)[OH:21])[N:12]3CCCC3C(=O)[O-].C1CC([NH2+]C1)C(=O)[O-].O>>CC12CC[C:11](=[N+:12]3CCCC3C(=O)[O-])[CH:10]=[C:20]1CCC2=O.[OH-:21].C1CC([NH2+]C1)C(=O)[O-].O 10,11=10,20;20,21=21;12=11
C[S:10]C.[OH:20][OH:21]>>C[S+:10](C)[OH:20].[OH-:21] 10=20;20,21=21
[H:20][OH:21].CC(=O)CC(C1=CC=CC=C1)[O-:10]>>[H:20][O:10]C(CC(=O)C)C1=CC=CC=C1.[OH-:21] 10=20;20,21=21
CC1=CC=C(C=C1)CC(C2=CC=CC=C2)O.C1=CC=C(C=C1)C[C:20](C2=CC=CC=C2)([C:21](C#N)(C3=CC=CC=C3)O)[O-:10]>>CC1=CC=C(C=C1)CC(C2=CC=CC=C2)O.C1=CC=C(C=C1)C[C:20](=[O:10])C2=CC=CC=C2.C1=CC=C(C=C1)[C-:21](C#N)O 10=20;20,21=21
[H:20][NH+:21]1CCOCC1.C=CC1=CC2=C(C=C1)C(CCO2)(N3CCOCC3)[O:10][Ti-](Cl)(Cl)(Cl)Cl>>[H:20][O+:10](C1(CCOC2=C1C=CC(=C2)C=C)N3CCOCC3)[Ti-](Cl)(Cl)(Cl)Cl.C1COCC[NH:21]1 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)CBr)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22][CH:23]=[C:24]1CBr)S(=O)(=O)O 10=20;20,21=21,22;22,23=23,24
CN[CH:20]=[NH+:21]C.C[OH:10].[Cl-]>>CN[CH:20]([NH:21]C)[OH+:10]C.[Cl-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1CCCC(CCC1)([NH2+]CC2=CC=CC=C2)[O-:10]>>[H:20][O:10]C1(CCCCCCC1)[NH2+]CC2=CC=CC=C2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21](C)C(O)OC1=CC=C2C(=C1)C3=C(N2C)C=CC=C3.[OH2:10]>>[H:20][OH2+:10].CN1C2=C(C=CC=C2)C3=CC(=CC=C31)OC(O)[O:21]C 10=20;20,21=21
C[C:20](=[O:21])CCC(=O)C1=CC=CC=C1.C1CCC(C(C1)N)[NH2:10].CC(=O)O.CO>>C[C:20](CCC(=O)C1=CC=CC=C1)([NH2+:10]C2CCCCC2N)[O-:21].CC(=O)O.CO 10=20;20,21=21
C[O+:11](C)[Si-:10](C)(C)(C)I>>C[O:11]C.C[Si:10](C)(C)I 10,11=11
[Li:20]C.[P:10](Cl)(Cl)Cl>>[Li-:20](C)[P+:10](Cl)(Cl)Cl 10=20,
CCCOC(=O)C(C1=CC=CC=C1)[N-][N+:21]#[N:20].C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.[OH3+]>>CCCOC(=O)C(C1=CC=CC=C1)[N-][N:21]=[N:20][P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[OH3+] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2S(=O)(=O)O)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=CC=C2S(=O)(=O)O 10=20;20,21=21,22
[H:20][CH:21](C(=O)N(CCC1=CC=C(C(=C1)OC)OC)C=C(C)C(=O)OC)[S+:22](C)O.CS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C.CC(=CN(CCC1=CC=C(C(=C1)OC)OC)C(=O)[CH:21]=[S:22](C)O)C(=O)OC 10=20;20,21=21,22
[H:20][OH2+:21].CCOC(=O)C(C[CH:10]=[C:11](C)[O-:12])C(=O)OCC>>[H:20][CH:10](CC(C(=O)OCC)C(=O)OCC)[C:11](=[O:12])C.[OH2:21] 10,11=10,20;20,21=21;12=11
C[C:20](=[O:21])Cl.CN(C)C1=CC=[N:10]C=C1.CC(C)(C)O>>C[C:20]([N+:10]1=CC=C(C=C1)N(C)C)([O-:21])Cl.CC(C)(C)O 10=20;20,21=21
[H:20][O:21]C.C[Sn](C)(C)C1=C(C=CC=C1)C[O-:10]>>[H:20][O:10]CC1=C(C=CC=C1)[Sn](C)(C)C.C[O-:21] 10=20;20,21=21
[H:20][N+:21]1(C(=CCC1(C2=CC=CC=C2)O)C)C3CCCCC3N.CC(=O)[O-:10].CO.O>>[H:20][O:10]C(=O)C.CC1=CCC([N:21]1C2CCCCC2N)(C3=CC=CC=C3)O.CO.O 10=20;20,21=21
C[C:10](=[N+:11]=[N-:12])C(=O)N(C)C1=CC=CC=C1.C1CC(=O)[N:21](C1=O)[Br:20]>>C[C:10](C(=O)N(C)C1=CC=CC=C1)([N+:11]#[N:12])[Br:20].C1CC(=O)[N-:21]C1=O 10,11=10,20;20,21=21;12=11
[Li:10][O+:11]=CCCC.[BH-](CC)(CC)CC.[AlH4-]>>[Li+:10].CCCC=[O:11].[BH-](CC)(CC)CC.[AlH4-] 10,11=11
CC(=[O+:11][Si-:10](C)(C)(C)OC(=O)C)N>>CC(=[O:11])N.CC(=O)O[Si:10](C)(C)C 10,11=11
CC(CCO)CC[O-:10].C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C(Br)(Br)Br>>CC(CCO)CC[O:10][P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)Br.C(Br)(Br)Br 10=20,
[H:20][O:21]C(=O)C(CCCCC(=O)[O-])CCC=C.CC[O-:10]>>[H:20][O:10]CC.C=CCCC(CCCCC(=O)[O-])C(=O)[O-:21] 10=20;20,21=21
[H:20][Br:21].CC1CC([C:11](=[CH:10]1)C)C>>[H:20][CH:10]1C(CC([C+:11]1C)C)C.[Br-:21] 10,11=10,20;20,21=21
CC[CH:20]=[O+:21]CC.CC[OH:10]>>CC[CH:20]([OH+:10]CC)[O:21]CC 10=20;20,21=21
CC(C)(C)[Si-:10](C)(C)([O+]=CN(C)C)[Cl:11].CC(C)O.C1=CN=CN1>>CC(C)(C)[Si:10](C)(C)[O+]=CN(C)C.[Cl-:11].CC(C)O.C1=CN=CN1 10,11=11
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C2=CC=CC=C21)Br)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC=C2C(=C1)[C:21](=[CH:22][CH:23]=[C:24]2Br)S(=O)(=O)O 10=20;20,21=21,22;22,23=23,24
CC(C1=CC=CC=C1)[OH:10].C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)SC4=NC5=C(S4)C=CC=C5.C1=CC2=C(C=C1)SC(=N2)[S-]>>CC(C1=CC=CC=C1)[OH+:10][P:20](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)SC5=NC6=C(S5)C=CC=C6.C1=CC2=C(C=C1)SC(=N2)[S-] 10=20,
[H:20][O:21]S(=O)(=O)O.CCSC[CH:10]=[C:11](C)[OH:12]>>[H:20][CH:10](CSCC)[C:11](=[OH+:12])C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
CC12CCC3C(C1CC[C:20]2=[O:21])CCC4=C3C=CC(=C4)O[Na].C#[C:10][Na:11]>>CC12CCC3C(C1CC[C:20]2([C:10]#C)[O-:21])CCC4=C3C=CC(=C4)O[Na].[Na+:11] 10,11=10,20;20,21=21
C1=CC=C([CH:11]=[CH:10]1)[N+](=O)[O-].[N+:20](=O)=[O:21]>>C1=C[CH:10]([CH+:11]C(=C1)[N+](=O)[O-])[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
[H:20][C:21](C)(C)[C:22](=[O:23])C(C)(C)Br.[OH-:10]>>[H:20][OH:10].C[C:21](=[C:22](C(C)(C)Br)[O-:23])C 10=20;22,23=23;20,21=21,22
